US05246948
Synthesis of 4-[3-(N-2-pyridylmethyl-N-benzoylamino)propylthio]pyridine
To a solution of 1.60 g (6.17 mmol) of 4-[3-(N-2-pyridylmethylamino)propylthio)pyridine and 1.05 ml (7.40 mmol) of triethylamine in 10 ml of methylene chloride, 0.86 ml (7.40 mmol) of benzoyl chloride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/methanol=10:1) to obtain 1.32 g of the desired compound (yield: 58.9%, yellow oil).

reactant | 4-[3-(N-2-pyridylmethylamino)propylthio)pyridine | 6.17 mmol, 1.60 g | N1=C(C=CC=C1)CNCCCSC1=CC=NC=C1 | C14H17N3S
reactant | triethylamine | 7.40 mmol, 1.05 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 7.40 mmol, 0.86 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(N-2-pyridylmethyl-N-benzoylamino)propylthio]pyridine | 1.32 g, yield: 58.9% | N1=C(C=CC=C1)CN(C(C1=CC=CC=C1)=O)CCCSC1=CC=NC=C1 | C21H21N3OS
